US09340555B2
To a stirred solution of N-(3-aminopropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide (125 mg, 0.24 mmol) and N,N-diisopropylethylamine (46 mg, 0.36 mmol) in 10 ml of anhydrous DMF was added methyl bromoacetate (36 mg, 0.24 mmol). The mixture was stirred at room temperature for 50 minutes and poured into 100 ml of water with vigorous stirring. The precipitates were filtered and dried in vacuo to give the crude, which was purified by silica gel chromatography eluting with 5˜8% of MeOH in CHCl3 to afford methyl ({3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}amino)acetate as light beige solid. Yield: 54 mg, 38%.

reactant | N-(3-aminopropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | 0.24 mmol, 125 mg | NCCCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F | C25H23F2N5O3S
reactant | N,N-diisopropylethylamine | 0.36 mmol, 46 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl bromoacetate | 0.24 mmol, 36 mg | BrCC(=O)OC | C3H5BrO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl ({3-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]propyl}amino)acetate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCNCC(=O)OC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C28H27F2N5O5S
